US05233035
Sodium 5-mercapto-1,2,3-thiadiazole (2.45 g) was suspended in methanol (20 ml), and a solution of p-methoxybenzyl 7-amino-3-chloromethyl-3-cephem-4-carboxylate (5.60 g) in methylene chloride (20 ml) was added dropwise. The mixture was stirred for 30 min. under ice-cooling, an insoluble material was filtered off, and the solvent was evaporated to obtain a crude material (6.38 g). The crude material was subjected to silica gel chromatography eluting with chloroform-ethyl acetate to obtain p-methoxybenzyl 7-amino-3-(1,2,3-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylate (4.90 g).

reactant | Sodium 5-mercapto-1,2,3-thiadiazole | 2.45 g | SC1=CN=NS1.[Na]
reactant | p-methoxybenzyl 7-amino-3-chloromethyl-3-cephem-4-carboxylate | 5.60 g | NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C16H17ClN2O4S
solvent | methanol | 20 ml | CO | CH4O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | p-methoxybenzyl 7-amino-3-(1,2,3-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 4.90 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NS2)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C18H18N4O4S3
